US06815448B2
8-(2-Methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalen-8-ylmethyl)-1-phenyl-1,3,8triazaspiro[4.5]decan-4-one
(8R)-7,8-Dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-methyl-benzenesulfonate (0.79 g, 2.1 mmole) and 1-phenyl-1,3,8-triazaspiro[4.5]-decan-4-one (1.46 g, 6.3 mmole) were combined in 40 mL of DMSO under nitrogen. This solution was heated to 75-80° C. under nitrogen for 4 hours. After completion, the reaction was cooled to room temperature and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic phase was washed with brine, dried over magnesium sulfate and concentrated in vacuum. The crude oil was column chromatographed on silica gel using first methylene chloride to remove impurities and then 1% methanol/methylene chloride to elute 0.62 g of the desired free amine. This was recrystallized from ethanol with the addition of 0.20 g of fumaric acid to give 0.40 g of the (S)-enantiomer of the title compound as a white solid, m. p. 240° C.

reactant | (8R)-7,8-Dihydro[1,4]dioxino[2,3-g][1,3]benzoxazol-8-ylmethyl 4-methyl-benzenesulfonate | 2.1 mmole, 0.79 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(C=CC=3N=COC32)OC1 | C17H15NO6S
reactant | 1-phenyl-1,3,8-triazaspiro[4.5]-decan-4-one | 6.3 mmole, 1.46 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | DMSO | 40 mL | CS(=O)C | C2H6OS
product | 8-(2-Methyl-7,8-dihydro-1,6,9-trioxa-3-aza-cyclopenta[a]naphthalen-8-ylmethyl)-1-phenyl-1,3,8triazaspiro[4.5]decan-4-one | CC1=NC=2C(=C3OC(COC3=CC2)CN2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)O1 | C24H26N4O4
